US04086248
To 100 ml of anhydrous methanol was added 20 g (0.073 mole) of 3-ethynylphenyl(p-toluenesulfonate) and 8.19 g (0.146 mole) of potassium hydroxide. The mixture was heated to reflux, under a nitrogen atmosphere and maintained at reflux for 4 hours. A distillation apparatus was attached to the flask, and methanol was distilled from the flask until the residue approached dryness. Then, 400 ml of anhydrous benzene was added, and distillation continued until 200 ml of benzene was removed. The reaction mixture was freeze-dried under high vacuum, leaving a dry, white powder. To the freeze-dried material was added a solution containing 12.1 g (0.05 mole) of 4-nitronaphthalic anhydride dissolved in 300 ml of anhydrous N,N-dimethylacetamide (DMAC). The mixture was heated to 100° C, under a nitrogen atmosphere, and maintained at that temperature for 12 hours. The reaction mixture was allowed to cool to room temperature and poured into diethylether to precipitate the inorganic salts which were removed by filtration. The diethylether/DMAC solvent was removed in vacuo at 90 ° C, by means of a rotary evaporator leaving a residual oil. The oil was dissolved in methylene chloride and filtered through a 2 inch × 6 inch dry column of silica gel while eluting the column with methylene chloride. The eluate was evaporated to dryness, yielding 12.5 g (80%) of 4-(3-ethynylphenoxy)naphthalic anhydride.

reactant | methanol | 100 ml | CO | CH4O
reactant | 3-ethynylphenyl(p-toluenesulfonate) | 0.073 mole, 20 g | C(#C)C=1C=C(C=CC1)C1=C(C=CC(=C1)S(=O)(=O)[O-])C
reactant | potassium hydroxide | 0.146 mole, 8.19 g | [OH-].[K+]
reactant | 4-nitronaphthalic anhydride | 0.05 mole, 12.1 g | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)C(=O)OC(=O)C1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C22H12N2O7
solvent | N,N-dimethylacetamide | 300 ml | CN(C(C)=O)C | C4H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | 4-(3-ethynylphenoxy)naphthalic anhydride | 12.5 g, 80% | C(#C)C=1C=C(OC2=CC=C(C3=CC=CC=C23)C(=O)OC(=O)C2=CC=C(C3=CC=CC=C23)OC2=CC(=CC=C2)C#C)C=CC1 | C38H22O5
